US07585874B2
Cyclobutanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide
As described for Example 56, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine (96 mg, 0.33 mmol) was converted, using cyclobutanecarboxylic acid instead of cyclopropylacetic acid, to the title compound (33 mg, 30%) which was obtained as a light brown foam. MS: m/e=373.1 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine | 0.33 mmol, 96 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N)C1 | C17H14N4O
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
product | Cyclobutanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide | 33 mg, 30% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)NC(=O)C2CCC2)C1 | C22H20N4O2
